US05232948
To a solution of 5.00 g (22.32 mmoles) of methyl,methyl 5-methoxyisophthalate in 100 ml dry THF is added dropwise, maintaining a gentle reflux, 67 ml (66.96 mmoles) of a 1M solution of lithium aluminum hydride in Et2O. After addition the reaction mixture is stirred for 1 hour and is then quenched with saturated NH4Cl. The reaction mixture is then extracted with Et2O (3 times). The Et2O layers are combined, washed with brine, dried with MgSO4, filtered and concentrated down in vacuo to yield 1,3-di-(hydroxymethyl)-5-methoxybenzene which is used directly in the next step.

reactant | methyl,methyl 5-methoxyisophthalate | 22.32 mmoles, 5.00 g | COC=1C=C(C=C(C(=O)OCC)C1)C(=O)[O-]
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 1,3-di-(hydroxymethyl)-5-methoxybenzene | OCC1=CC(=CC(=C1)OC)CO | C9H12O3
